datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)[O:82][C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([C:10]1([I+:61]C2=CC=CC=C2)[C:71](=[O:72])[O:82]C(C)(C)[O:102][C:91]1=[O:92])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1>>C1COC2(CC[C:20]([H:10])([O-:21])CC2)O1.[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1 10,11=10,20;12,13=11,12;20,21=21"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([C:10]([C:11]#[N:12])([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC1=CC(C)=C([N:61]2[C-:10]=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1>>CC1=CC(C)=C([N:61]2[C:10]([CH:20]3[C:31]4=[C:32](C=CC=C4)[CH:33]=[CH:34][C:35]4=[C:36]3C=CC=C4)=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1 10=20
"C1=CC=C([C:10](=[C:11]=[N-:12])[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10](C2=CC=CC=C2)([C:11]#[N:12])[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[C+:11]([CH2:10][CH:20]([N:21]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21"
"CC1(C)C(C)(C)[O:74][B:63]([CH2:62][CH:11]=[CH2:10])[O:64]1.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC1(C)C(C)(C)[O:74][B:63]([CH2:62][CH+:11][CH2:10][C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]2)[O:64]1 10,11=10,20"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1C[S:31][CH+:20][S:41]C1.C[C:10](C)=[C:11](C)C>>C[C:10](C)([C+:11](C)C)[CH:20]1[S:31]CCC[S:41]1 10,11=10,20"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](C(C)(C)C)=[O+:12][Si:63](C)(C)C)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[N:10]=[C:11]2CCC[N:12]2C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2CCC3)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[N:10]2CCN1CC2.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]12CCN(CC1)CC2)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10][NH:14][C:13](C)=[CH:12]1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[C:11]1=[CH:12][C:13](C)=[NH+:14][CH:10]1[C:20]([C:31]1=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12,13=11,12;14=13,14"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72]>>C[C:10]([C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1)([C:61](C)=[O:62])[C:71](C)=[O:72] 10=20;20,21=21"
